US04468519
(A) (Chloro)cyclohexylmethyl propionate
A stirred solution of 73 ml (0.84 mole) of propionyl chloride in 250 ml of dichloromethane was cooled to 0° C. (salt-ice bath) and treated portionwise with 94.2 g (0.84 mole) of freshly distilled cyclohexanecarboxaldehyde. After further cooling to -5° C., approximately 0.5 g of zinc chloride was added. The temperature rose gradually to 7° C. as a solid separated. The cooling bath was removed and while stirring was continued the reaction mixture was allowed to warm to room temperature (the solid gradually went into solution). After about 1 hour some additional zinc chloride was added; there was no further reaction. The solution was kept overnight at room temperature.

reactant | propionyl chloride | 0.84 mole, 73 ml | C(CC)(=O)Cl | C3H5ClO
reactant | cyclohexanecarboxaldehyde | C1(CCCCC1)C=O | C7H12O
reactant | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | zinc chloride | approximately 0.5 g | [Cl-].[Zn+2].[Cl-]
product | (Chloro)cyclohexylmethyl propionate | C(CC)(=O)OC(C1CCCCC1)Cl | C10H17ClO2
